US08236963B2
Intermediate 48: Methyl [5-chloro-1′-(3-chlorobenzyl)-2,2′,5′-trioxospiro[indole-3,3′-pyrrolidin]-1(2H)-yl)acetate, (cf. Schemes 1a, 1b, 1c, 3, 4, compound of general structure II)
Following the general procedure (Route A) as outlined above for the synthesis of intermediate 16, methyl (5-chloro-2,2′,5′-trioxospiro[indole-3,3′-pyrrolidin]-1(2H)-yl)acetate, intermediate 47, (2.94 g, 9.11 mmol) was reacted with potassium tert-butoxide (1.07 g, 9.57 mmol) and 3-chlorobenzyl bromide (1.25 ml, 9.57 mmol) in anhydrous N,N-dimethylformamide (90 ml) at ambient temperature for two hours to give the title compound (2.10 g, 52%) as slightly pink powder after trituration from tetrahydrofuran/diethyl ether. The compound was isolated in several fractions (HPLC purity: 96-99%). MS (ESI+): 447.3; MS (ESI−): 445.3

reactant | methyl (5-chloro-2,2′,5′-trioxospiro[indole-3,3′-pyrrolidin]-1(2H)-yl)acetate | ClC=1C=C2C(=CC1)N(C(C21C(NC(C1)=O)=O)=O)CC(=O)OC | C14H11ClN2O5
reactant | potassium tert-butoxide | 9.57 mmol, 1.07 g | CC(C)([O-])C.[K+]
reactant | 3-chlorobenzyl bromide | 9.57 mmol, 1.25 ml | ClC=1C=C(CBr)C=CC1 | C7H6BrCl
reactant | tetrahydrofuran diethyl ether | O1CCCC1.C(C)OCC
solvent | N,N-dimethylformamide | 90 ml | CN(C=O)C | C3H7NO
product | Methyl [5-chloro-1′-(3-chlorobenzyl)-2,2′,5′-trioxospiro[indole-3,3′-pyrrolidin]-1(2H)-yl)acetate | 2.10 g, 52% | ClC=1C=C2C(=CC1)N(C(C21C(N(C(C1)=O)CC1=CC(=CC=C1)Cl)=O)=O)CC(=O)OC | C21H16Cl2N2O5
